US04507498
A mixture of 5.0 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 5.4 g of methyl 6-bromohexanoate and 5.4 g of anhydrous potassium carbonate in 50 ml of anhydrous dimethylformamide was stirred and heated at 75° for 10 hours. The solvent was removed in vacuo and the residue was purified by column chromatography on 125 g of silica gel. Elution with 25% ethyl acetate-hexane gave 7.5 g (90% yield) of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid methyl ester as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 5.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | methyl 6-bromohexanoate | 5.4 g | BrCCCCCC(=O)OC | C7H13BrO2
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid methyl ester | 7.5 g, 90% yield | COC(CCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C18H26O5
